US06242443B1
3-Isopropylamino-6-phenoxy-4H-1,2,4-benzothiadiazine 1,1-dioxide
Starting from 2-amino-4-phenoxybenzenesulfonamide and isopropyl isothiocyanate, and following a procedure analogous to the one described in Example 4a, N-(2-amino-4-phenoxybenzenesulfonyl)-N′-isopropylthiourea was prepared. The impure crude product was used without purification. Subsequent ring closure with phosgene by a procedure analogous to the one described in Example 4b gave the title compound; m.p. 250-252° C.

reactant | 2-amino-4-phenoxybenzenesulfonamide | NC1=C(C=CC(=C1)OC1=CC=CC=C1)S(=O)(=O)N | C12H12N2O3S
reactant | isopropyl isothiocyanate | C(C)(C)N=C=S | C4H7NS
reactant | N-(2-amino-4-phenoxybenzenesulfonyl)-N′-isopropylthiourea | NC1=C(C=CC(=C1)OC1=CC=CC=C1)S(=O)(=O)NC(=S)NC(C)C | C16H19N3O3S2
product | 3-Isopropylamino-6-phenoxy-4H-1,2,4-benzothiadiazine 1,1-dioxide | C(C)(C)NC1=NS(C2=C(N1)C=C(C=C2)OC2=CC=CC=C2)(=O)=O | C16H17N3O3S
